### PR TITLE
Rewrite definitions that use Dec to be less strict

### PR DESCRIPTION
**Pull request by laMudri**
This pull request addresses points 4 and 5 from #932. I found that distinguishing programs from proofs (the difference between 4 and 5) was fairly difficult, so I put them all into one PR. The general principles have been:

1. If possible, factor through `does`.
2. If the proof part is needed, try to localise pattern matching as much as possible using `invert`.
3. In cases where (AFAICT) computation doesn't matter, keep with `yes` and `no`. This is mostly proofs via `⊥`.

### CODE REVIEW

**Comment by laMudri** [comment]
Minor point: should the convention be ` true because` or `true  because`? I think I've been switching between the two.

**Comment by laMudri** [comment]
So, I've been investigating the checking failure in `Data.Rational.Properties`. One failing lemma is the following:

```agda
normalize-coprime : ∀ {n d-1} .(c : Coprime n (suc d-1)) →
                    normalize n (suc d-1) ≡ mkℚ (+ n) d-1 c
normalize-coprime {n} {d-1} c = begin
  normalize n d              ≡⟨⟩
  mkℚ+ (n ℕ./ g) (d ℕ./ g) _ ≡⟨ mkℚ+-cong n/g≢0 d/1≢0 {c₂ = c₂} (ℕ./-congʳ {n≢0 = g≢0} g≡1) (ℕ./-congʳ {n≢0 = g≢0} g≡1) ⟩
  mkℚ+ (n ℕ./ 1) (d ℕ./ 1) _ ≡⟨ mkℚ+-cong d/1≢0 _ (ℕ.n/1≡n n) (ℕ.n/1≡n d) ⟩
  mkℚ+ n d _                 ≡⟨⟩
  mkℚ (+ n) d-1 _            ∎
  where
  open ≡-Reasoning; d = suc d-1; g = ℕ.gcd n d
  c′ = recomputeCP c
  c₂ : Coprime (n ℕ./ 1) (d ℕ./ 1)
  c₂ = subst₂ Coprime (sym (ℕ.n/1≡n n)) (sym (ℕ.n/1≡n d)) c′
  g≡1 = C.coprime⇒gcd≡1 c′
  g≢0   = fromWitnessFalse (ℕ.gcd[m,n]≢0 n d (inj₂ λ()))
  n/g≢0 = fromWitnessFalse (ℕ.n/gcd[m,n]≢0 n d {_} {g≢0})
  d/1≢0 = fromWitnessFalse (subst (_≢ 0) (sym (ℕ.n/1≡n d)) λ())
```

The reported error, after the changes made so far, is that where `n/g≢0` is used, for `eq : d ≡ 0`, `(λ()) eq` (from the definition of `g≢0`) is not equal to the expected, `ℕ.≡⇒≡ᵇ d 0 eq`. Indeed, replacing `λ()` by `ℕ.≡⇒≡ᵇ d 0` in `g≢0` fixes the issue. I don't want to do this, because it implies that users of stdlib could have similar code, which breaks in this mysterious way.

The odd thing is that even in master, these two open terms are not equal. So somehow, I've introduced an equality constraint. I'll keep investigating this on another day.

**Comment by laMudri** [comment]
It looks like the problem wasn't really to do with anything `Dec`-related. I had unthinkingly changed the implementation of `T?` in `Data.Bool.Properties` so that the proof of `¬ ⊥` required in the `no`/`ofⁿ` case was `id` rather than `λ ()`. Changing it back to `λ ()` seems to fix the problem in `Data.Rational.Properties`.

File: src/Axiom/UniquenessOfIdentityProofs.agda [hunk 1]
```diff
@@ -62,13 +64,13 @@ module Decidable⇒UIP
 
   ≡-normalise : _≡_ {A = A} ⇒ _≡_
   ≡-normalise {a} {b} a≡b with a ≟ b
-  ... | yes p = p
-  ... | no ¬p = ⊥-elim (¬p a≡b)
+  ... | true  because  [p] = invert [p]
+  ... | false because [¬p] = ⊥-elim (invert [¬p] a≡b)
```
Comment (MatthewDaggitt) [inline src/Axiom/UniquenessOfIdentityProofs.agda]: I'm struggling to see the advantage of this change? Can you give an example of where the behaviour differs?

File: src/Data/List/Properties.agda [hunk 2]
```diff
@@ -673,15 +674,15 @@ module _ {P : Pred A p} (P? : Decidable P) where
 
   takeWhile++dropWhile : ∀ xs → takeWhile P? xs ++ dropWhile P? xs ≡ xs
   takeWhile++dropWhile []       = refl
-  takeWhile++dropWhile (x ∷ xs) with P? x
-  ... | yes _ = cong (x ∷_) (takeWhile++dropWhile xs)
-  ... | no  _ = refl
+  takeWhile++dropWhile (x ∷ xs) with does (P? x)
```
Comment (MatthewDaggitt) [inline src/Data/List/Properties.agda]: Could you just confirm for me that these proofs still go through without this change? i.e. that changing the definition of `takeWhile` doesn't **require** us to change the proofs.

File: src/Axiom/UniquenessOfIdentityProofs.agda (hunk 1 above)
Comment (laMudri) [reply src/Axiom/UniquenessOfIdentityProofs.agda]: Here I'm being cautious, and hoping that the principle of making case splits as late as possible might save us in some weird case. In particular, it's possible to imagine a difference in the `false` case, where we now have `(≡-normalise _ | false because <stuck>) = ⊥-elim <stuck>` rather than just being stuck.

Another rough principle was to pretend that old `Dec` never existed, and to rewrite stuff in the newly “obvious” way. This goes some way to explaining the `true` case, as well as wanting to keep consistency with the `false` case.

File: src/Data/List/Properties.agda (hunk 2 above)
Comment (laMudri) [reply src/Data/List/Properties.agda]: Yep. When I was working on these, the file checked before and after the changes to each lemma.

File: src/Axiom/UniquenessOfIdentityProofs.agda (hunk 1 above)
Comment (MatthewDaggitt) [reply src/Axiom/UniquenessOfIdentityProofs.agda]: Okay fair enough, thanks for the explanation.

**Comment by MatthewDaggitt** [comment]
Any chance you could add a CHANGELOG entry documenting the change and then I'll merge it in.
